US04801719
(a) Preparation of (1,1,2,2-tetramethyleth-1-yl)-dimethylsilyl trifluoromethanesulfonate
50 ml of trifluoromethanesulfonic acid are slowly added dropwise at room temperature under argon to 101.57 g (0.57 mol) of (1,1,2,2-tetramethyleth-1-yl)-dimethylchlorosilane. Subsequently, the mixture is heated for 8 hours at 60° C. After this time, the evolution of HCl ceases. 111 g (67% of theory) of a colourless oil of boiling point=123°-124° C./28.6 mbar are obtained by distillation. The 1H-NMR spectrum is in agreement with the structure.

reactant | (1,1,2,2-tetramethyleth-1-yl)-dimethylchlorosilane | 0.57 mol, 101.57 g | CC(C(C)C)(C)[Si](Cl)(C)C | C8H19ClSi
reactant | HCl | Cl | ClH
reactant | trifluoromethanesulfonic acid | 50 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | (1,1,2,2-tetramethyleth-1-yl)-dimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)C(C(C)C)(C)C)(F)F | C9H19F3O3SSi
